US07648986B2
Step 1: Preparation of 2-amino-4-methyl-3-furonitrile
To a mixture of malononitrile (0.96 g, 14.6 mmol), acetol (1.08 g, 14.6 mmol) in methanol (10 mL) at 0° C. was added, dropwise, triethylamine (2.0 mL). The reaction mixture was stirred at room temperature overnight. After removal of solvent under reduced pressure the crude solid washed with cold isopropanol to give product as white powder (0.54 g, 30%). HPLC/MS: (M+H)+ 123.3 m/z. Retention time (LC-MS)=1.81 min. 1H NMR (CD3OD): 6.58(s, 1H,); 1.95 (s, 3H).

reactant | malononitrile | 14.6 mmol, 0.96 g | C(CC#N)#N | C3H2N2
reactant | acetol | 14.6 mmol, 1.08 g | CC(=O)CO | C3H6O2
reactant | triethylamine | 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 10 mL | CO | CH4O
product | 2-amino-4-methyl-3-furonitrile | 0.54 g, 30% | NC=1OC=C(C1C#N)C | C6H6N2O
